US07507730B2
Step A: 1-(Methylsulfonyl)pyrrolidine
To a solution of pyrrolidine (8.25 g, 116 mmol) in dichloromethane (120 mL) were added triethylamine (19.0 mL, 139 mmol) followed by addition of methanesulfonyl chloride (9.0 mL, 116 mmol) at 0° C. The reaction was allowed to stir while warming up to rt. overnight, which was transferred to a separatory funnel and washed twice with 1.0N HCl and brine once. Organic phase was dried over magnesium sulfate, filtered and solvent was removed to leave a pure title product as a white solid. Step B: 1-(Pyrrolidin-1-ylsulfonyl)propan-2-one

reactant | pyrrolidine | 116 mmol, 8.25 g | N1CCCC1 | C4H9N
reactant | triethylamine | 139 mmol, 19.0 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 116 mmol, 9.0 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | 1-(Methylsulfonyl)pyrrolidine | CS(=O)(=O)N1CCCC1 | C5H11NO2S
